US07141596B2
Step 1. benzyl (1S)-2-[(2-aminophenyl)amino-]-1-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylbenzyl]-2-oxoethylcarbamate
A solution of (2S)-2-[(benzyloxy)carbonyl]amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylphenyl]propanoic acid (200 mg, 0.448 mmol) in N,N-dimethylformamide (2.0 mL) was treated with benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (0.218 g, 0.493 mmol). After stirring for 10 minutes at 0° C., a solution of 1,2-benzenediamine (72.7 mg, 0.672 mmol) and N,N-diisopropylethylamine (0.39 mL, 2.24 mmol) in DMF (1.0 mL) was cannulated into the reaction flask. The solution was stirred at 25° C. for 2 h. The solution was diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate solution and 1.0 M hydrochloric acid solution. The organic phase was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by preparative LCMS to yield the desired product (196 mg, 82%). 1H NMR (400 MHz, CD3OD): δ 7.47 (d, 0.5H), 7.39–7.22 (m, 9H), 7.12 (d, 0.5H), 7.07 (s, 1H), 6.82 (d, 0.5H), 6.71 (d, 0.5H), 5.50 (t, 1H), 5.10 (s, 2H), 4.47 (m, 1H), 3.3 (m, 2H), 3.07 (m, 2H), 2.48 (s, 1.5H), 2.38 (s, 1.5H); MF=C27H28N4O6S; LCMS found for C27H29N4O6S (M+H)+: m/z=537.

reactant | (2S)-2-[(benzyloxy)carbonyl]amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylphenyl]propanoic acid | 0.448 mmol, 200 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)C | C21H22N2O7S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.493 mmol, 0.218 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1,2-benzenediamine | 0.672 mmol, 72.7 mg | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | N,N-diisopropylethylamine | 2.24 mmol, 0.39 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl (1S)-2-[(2-aminophenyl)amino-]-1-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-methylbenzyl]-2-oxoethylcarbamate | 196 mg, 82% | NC1=C(C=CC=C1)NC([C@H](CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)C)NC(OCC1=CC=CC=C1)=O)=O | C27H28N4O6S
